US04962117
Step 1: Preparation of 3-(2-(4-(1-methylethyl)-2-thiazolyl)ethenyl)benzaldehyde
4-(1-Methylethyl)-2-methylthiazole (546 mg, EP 0219436 p. 19) and isophthaladehyde (570 mg, 1.1 equiv.) are heated at reflux in acetic anhydride (1.1 mL, 3 equiv.) 16 hours. The reaction mixture is cooled and the acetic acid and anhydride are co-evaporated with toluene. The title compound is purified by flash chromatography on silica using EtOAc:hexane 10:90.

reactant | 4-(1-Methylethyl)-2-methylthiazole | 546 mg | CC(C)C=1N=C(SC1)C | C7H11NS
reactant | acetic anhydride | 1.1 mL, 3 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2-(4-(1-methylethyl)-2-thiazolyl)ethenyl)benzaldehyde | CC(C)C=1N=C(SC1)C=CC=1C=C(C=O)C=CC1 | C15H15NOS
